US07790709B2
Preparation of (E)-N-(3-Chloro-2-ethoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting 3-chloro-2-ethoxy-benzyl-methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3,-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.15 g, 60%) was prepared as an off-white solid: 1H NMR (500 MHz, DMSO-d6) δ 10.82-10.69 (m, 1H), 10.11-10.09 (m, 1H), 8.41-8.33 (m, 1H), 8.01-7.91 (m, 1H), 7.58-7.48 (m, 1H), 7.47-7.36 (m, 1H), 7.28-7.01 (m, 3H), 4.86-4.68 (m, 2), 4.60-4.51 (m, 2H), 4.07-3.91 (m, 4H), 3.82-3.71 (m, 4H), 3.59-3.49 (m, 2H), 3.40-3.30 (m, 2H), 3.13-2.88 (m, 4H), 1.38 (t, J=7.0 Hz, 3H); MS (ESI) m/e 514 (M+I—)+.

reactant | 3-chloro-2-ethoxy-benzyl-methylamine | ClC=1C(=C(CNC)C=CC1)OCC | C10H14ClNO
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(3-Chloro-2-ethoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 0.15 g, 60% | Cl.ClC=1C(=C(CN(C(\C=C\C2=CC3=C(NC(N(C3)CCN3CCOCC3)=O)N=C2)=O)C)C=CC1)OCC | InChI=1S/C26H32ClN5O4.ClH/c1-3-36-24-20(5-4-6-22(24)27)17-30(2)23(33)8-7-19-15-21-18-32(26(34)29-25(21)28-16-19)10-9-31-11-13-35-14-12-31;/h4-8,15-16H,3,9-14,17-18H2,1-2H3,(H,28,29,34);1H/b8-7+;
